US04960884
In a manner similar to Sugihara et al. (Synthesis, p 881 (1978)), the reaction of 8.7 grams (0.043 mole) of 2-fluoroethyl 4-methylsulfinylphenyl ether (Compound 80, prepared by the method of Example 4 using one equivalent of 3-chloroperbenzoic acid), 10.0 ml (0.086 mole) of 2,6-lutidine and 12.2 ml (0.086 mole) of trifluoroacetic anhydride in 160 ml of dry acetonitrile yielded 0.7 gram of 2-fluoroethyl 4-mercaptophenyl ether as an oil.

reactant | 2-fluoroethyl 4-methylsulfinylphenyl ether | 0.043 mole, 8.7 grams | CS(=O)C1=CC=C(C=C1)OCCF | C9H11FO2S
reactant | 3-chloroperbenzoic acid | one equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,6-lutidine | 0.086 mole, 10.0 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoroacetic anhydride | 0.086 mole, 12.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
product | 2-fluoroethyl 4-mercaptophenyl ether | 0.7 gram | SC1=CC=C(C=C1)OCCF | C8H9FOS
